US09278953B2
Step 1: (R)-3-(2-methoxy-6-(1-methyl-1H-indol-6-yl)pyridin-3-yl)-3-methylpiperidin-2-one
To a vessel containing (R)-3-(6-chloro-2-methoxypyridin-3-yl)-3-methylpiperidin-2-one (80 mg, 0.31 mmol), 1-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole (105 mg, 0.41 mmol), dioxane (3 mL), and 2 M Na2CO3 (0.31 mL, 0.63 mmol) was added Pd(dppf)Cl2 (23 mg, 0.031 mmol). The reaction was stirred for 18 h at 110° C. The mixture was diluted with ethyl acetate (50 mL) and washed with brine (15 mL). The organic layer was dried over Na2SO4, filtered, and concentrated to provide a crude product. Purification by preparative TLC (100% Ethyl Acetate) provided the title compound (80 mg, 76%). 1H NMR (400 MHz, CDCl3) δ: 1.65-1.70 (m, 1H); 1.72 (s, 3H), 1.78-1.84 (m, 1H), 1.95-2.05 (m, 1H), 2.40 (td, 1H), 3.35-3.41 (m, 1H), 3.52 (td, 1H), 3.87 (s, 3H), 4.11 (s, 3H), 5.83 (br. s., 1H), 6.49 (d, 1H), 7.10 (d, 1H), 7.41 (d, 1H), 7.64-7.67 (m, 2H), 7.77 (dd, 1H), 8.03 (s, 1H).

reactant | (R)-3-(6-chloro-2-methoxypyridin-3-yl)-3-methylpiperidin-2-one | 0.31 mmol, 80 mg | ClC1=CC=C(C(=N1)OC)[C@@]1(C(NCCC1)=O)C | C12H15ClN2O2
reactant | 1-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | 0.41 mmol, 105 mg | CN1C=CC2=CC=C(C=C12)B1OC(C(O1)(C)C)(C)C | C15H20BNO2
reactant | dioxane | 3 mL | O1CCOCC1 | C4H8O2
reactant | Na2CO3 | 0.63 mmol, 2 M, 0.31 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.031 mmol, 23 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (R)-3-(2-methoxy-6-(1-methyl-1H-indol-6-yl)pyridin-3-yl)-3-methylpiperidin-2-one | 80 mg, 76% | COC1=NC(=CC=C1[C@@]1(C(NCCC1)=O)C)C1=CC=C2C=CN(C2=C1)C | C21H23N3O2
